US06030964
Synthesis of ethyl (E)-3-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]-2-fluoro-2-butenoate
450 mg (60%, 12 mmol) of sodium hydride was suspended in 10 ml of N,N-dimethylformamide. 3.3.g (14 mmol) of ethyl 2-fluoro-diethylphosphonoacetate was dropped into the suspension under cooling with ice. The obtained mixture was stirred under cooling with ice for 30 minutes, followed by the addition of 2.0 g (9.2 mmol) of 1-[1-(1-methylethyl)-1,2,3,4-tetrahydro-quinolin-6-yl)ethanone. The obtained mixture was stirred under cooling with ice for one hour, followed by the addition of an aqueous solution of ammonium chloride. The obtained mixture was extracted with ethyl acetate, and the organic phase was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and concentrated in a vacuum. The residue was purified by silica gel column chromatography to give 2.3 g of the title compound as a colorless oil.

reactant | sodium hydride | 12 mmol, 450 mg | [H-].[Na+]
reactant | ethyl 2-fluoro-diethylphosphonoacetate | FC(C(=O)OCC)P(=O)(OCC)OCC | C8H16FO5P
reactant | 1-[1-(1-methylethyl)-1,2,3,4-tetrahydro-quinolin-6-yl)ethanone | 9.2 mmol, 2.0 g | CC(C)N1CCCC2=CC(=CC=C12)C(C)=O | C14H19NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl (E)-3-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]-2-fluoro-2-butenoate | 2.3 g | CC(C)N1CCCC2=CC(=CC=C12)/C(=C(\C(=O)OCC)/F)/C | C18H24FNO2
